US04772601
5-Oxo-1-[4-(1-piperidinyl)-2-butynyl]-2-pyrrolidine carboxamide
An ice water chilled solution of 5-methoxycarbonyl-1-[4-(1-piperidinyl)-2-butynyl]-2-pyrrolidinone (5.44 g) in sieve dried methanol (175 ml) was treaed with anhydrous ammonia for fifteen minutes and was allowed to stand at ambient temperature overnight. The solution was concentrated to a brown solid (5.00 g). The solid was recrystallized from toluene (125 mL) to give 3.85 g of slightly brown crystals, mp 143°-145° C.

reactant | 5-methoxycarbonyl-1-[4-(1-piperidinyl)-2-butynyl]-2-pyrrolidinone | 5.44 g | COC(=O)C1CCC(N1CC#CCN1CCCCC1)=O | C15H22N2O3
reactant | ammonia | N | H3N
solvent | methanol | 175 ml | CO | CH4O
product | 5-Oxo-1-[4-(1-piperidinyl)-2-butynyl]-2-pyrrolidine carboxamide | O=C1CCC(N1CC#CCN1CCCCC1)C(=O)N | C14H21N3O2
